US05753657
A suspension of 1.5 g of 10-(hydroxyimino)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 90 ml of approximately 5N aqueous hydrochloric acid solution is stirred while boiling for 7 hours, cooled and then concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 70° C. The product obtained (2 g) is dissolved in 50 ml of dimethylformamide and, after addition of 0.1 g of decolorizing charcoal, the solution is filtered and the filter is then washed 3 times with 30 ml in total of dimethylformamide. The filtrate and the washings are combined, 600 ml of distilled water are added and they are centrifuged. The solid is suspended in 20 ml of distilled water, filtered, washed with 20 ml in total of acetone and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. The product obtained (1.13 g) is dissolved in 115 ml of dimethyl sulphoxide and, after addition of 0.1 g of decolorizing charcoal, the solution is filtered and the filter is then washed twice with 30 ml in total of dimethyl sulphoxide. The filtrate and the washings are combined, 115 ml of distilled water are added and they are centrifuged. The solid is suspended in 20 ml of distilled water, filtered, washed twice with 20 ml in total of acetone and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 1 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4,10-dione is thus obtained, in the form of a red-orange solid melting at 360° C. (decomposition) [N.M.R. spectrum: (200 MHz; DMSO d6 ; d in ppm): 7.42 and 7.55 (2t, J=7 Hz, 2H: --H7 and --H8); 7.52 and 7.72 (2d, J=7 Hz, 1H each: --H6 and --H9); 7.62 and 8.13 (2d, J=1 Hz, 1H each: --H of the imidazole); 13.60 (cplx, 1H: --NH--)].

reactant | 10-(hydroxyimino)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.5 g | ON=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C13H8N4O2
reactant | charcoal | 0.1 g | C | CH4
reactant | charcoal | 0.1 g | C | CH4
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | approximately 5N, 90 ml | Cl | ClH
solvent | dimethyl sulphoxide | 115 ml | CS(=O)C | C2H6OS
product | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4,10-dione | 1 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1=O | C13H7N3O2
